US08304557B2
3-chloro-N-[5-({2-[(cyclopropylcarbonyl)amino][1,2,4]triazolo[1,5-a]pyridin-6-yl}oxy)-2-methylphenyl]-4-methylthiophene-2-carboxamide
In the same manner as in Example 55 and using 3-chloro-4-methylthiophene-2-carboxylic acid (90.0 mg, 0.510 mmol), tetrahydrofuran (5 mL), thionyl chloride (89.0 μL, 1.02 mmol), N,N-dimethylformamide (2 drops), N-[6-(3-amino-4-methylphenoxy)[1,2,4]triazolo[1,5-a]pyridin-2-yl]cyclopropanecarboxamide (150 mg, 0.464 mmol) and N,N-dimethylacetamide (6 mL) as starting materials, the title compound (174 mg, 78%) was obtained as a pale-yellow solid.

reactant | 3-chloro-4-methylthiophene-2-carboxylic acid | 0.510 mmol, 90.0 mg | ClC1=C(SC=C1C)C(=O)O | C6H5ClO2S
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
reactant | thionyl chloride | 1.02 mmol, 89.0 μL | S(=O)(Cl)Cl | Cl2OS
reactant | N-[6-(3-amino-4-methylphenoxy)[1,2,4]triazolo[1,5-a]pyridin-2-yl]cyclopropanecarboxamide | 0.464 mmol, 150 mg | NC=1C=C(OC=2C=CC=3N(C2)N=C(N3)NC(=O)C3CC3)C=CC1C | C17H17N5O2
catalyst | N,N-dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
solvent | N,N-dimethylacetamide | 6 mL | CN(C(C)=O)C | C4H9NO
product | 3-chloro-N-[5-({2-[(cyclopropylcarbonyl)amino][1,2,4]triazolo[1,5-a]pyridin-6-yl}oxy)-2-methylphenyl]-4-methylthiophene-2-carboxamide | 174 mg, 78% | ClC1=C(SC=C1C)C(=O)NC1=C(C=CC(=C1)OC=1C=CC=2N(C1)N=C(N2)NC(=O)C2CC2)C | C23H20ClN5O3S
